US06191138B1
B4. (+/−)-cis-2-difluoromethoxy-1-methoxy-4-(2-aminocyclohexyl)benzene
14.6 g of (+/−)-cis-2-difluoromethoxy-1-methoxy-4-(2-nitrocyclohex-4-enyl)benzene are dissovled in 170 ml of ethanol, admixed with 3.0 g of Raney nickel and hydrogenated in an autoclave at a hydrogen pressure of 50 bar for 9 days. The suspension is filtered, the solvent is removed under reduced pressure and the residue is chromatographed over silica gel using a mixture of toluene/dioxane/triethylamine 3/1/0.5. Concentration of the appropriate fractions gives 3.4 g (25.7% of Th.) of the title compound as an oil.

reactant | (+/−)-cis-2-difluoromethoxy-1-methoxy-4-(2-nitrocyclohex-4-enyl)benzene | 14.6 g | FC(OC1=C(C=CC(=C1)[C@H]1[C@H](CC=CC1)[N+](=O)[O-])OC)F | C14H15F2NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 170 ml | C(C)O | C2H6O
catalyst | Raney nickel | 3.0 g | [Ni] | Ni
product | (+/−)-cis-2-difluoromethoxy-1-methoxy-4-(2-aminocyclohexyl)benzene | FC(OC1=C(C=CC(=C1)[C@H]1[C@H](CCCC1)N)OC)F | C14H19F2NO2
